US07326791B2
(a) benzyl(S)-2-tert-butoxycarbonylamino-6-diazo-5-oxohexanoate
5.0 g (14.9 mmol) of 1-benzyl tert-butoxycarbonyl-(S)-glutamate is placed in 75 mL of tetrahydrofuran while cooling with ice, combined with 2.1 mL (16.5 mmol) of isobutylchloroformate and 2.5 mL (18 mmol) of triethylamine, and stirred for 60 minutes. Then 30 mL, (20 mmol) of diazomethane (0.7 molar in diethyl ether) and 200 mL of tert-butylmethylether are added and the mixture is stirred overnight at ambient temperature. After the addition of 1 mL glacial acetic acid, the phases are separated, and the organic phase is dried and concentrated by evaporation. The residue is chromatographed on silica gel, eluting with dichloromethane/ethyl acetate (0%-20%). Yield: 2.2 g (41%); Rf value: 0.42 (silica gel: petroleum ether/ethyl acetate=6:4); C18H23N3O5 (361.40); mass spectrum: (M+H)+=362

reactant | 1-benzyl tert-butoxycarbonyl-(S)-glutamate | 14.9 mmol, 5.0 g | C(C)(C)(C)OC(=O)N[C@@H](CCC(=O)[O-])C(=O)OCC1=CC=CC=C1
reactant | isobutylchloroformate | 16.5 mmol, 2.1 mL | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | triethylamine | 18 mmol, 2.5 mL | C(C)N(CC)CC | C6H15N
reactant | diazomethane | 20 mmol, 0.7 molar | [N+](=[N-])=C | CH2N2
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
solvent | tert-butylmethylether | 200 mL | C(C)(C)(C)OC | C5H12O
product | benzyl(S)-2-tert-butoxycarbonylamino-6-diazo-5-oxohexanoate | C(C)(C)(C)OC(=O)N[C@H](C(=O)OCC1=CC=CC=C1)CCC(C=[N+]=[N-])=O | C18H23N3O5
